US04593019
A reaction mixture of 1.75 g of 6-chlorpurine riboside, 1.78 g of fluorenylethylamine and 1.84 g of triethylamine is refluxed in 50 ml of ethanol under nitrogen for 20 hrs. Upon cooling, solid material crystallizes out. It is filtered and dried affording 2.75 g (95%) of N6 -fluorenylethyl adenosine having a melting point of 120°-123° C.

reactant | 6-chlorpurine riboside | 1.75 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | fluorenylethylamine | 1.78 g | C1(=CC=CC=2C3=CC=CC=C3CC12)CCN | C15H15N
reactant | triethylamine | 1.84 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N6 -fluorenylethyl adenosine | 2.75 g, 95% | C1(=CC=CC=2C3=CC=CC=C3CC12)CCNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C25H25N5O4
